US08476253B2
tert-Butyl (3-{[(2-fluoro-4-nitrophenyl)carbonyl](methyl)amino}propyl)methylcarbamate
2-Fluoro-4-nitrobenzoic acid (150 mg, 0.810 mmol) was dissolved in methylene chloride (8 mL), triethylamine (0.135 mL, 0.972 mmol) and pivaloyl chloride (0.100 mL, 0.810 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 15 minutes. A solution of tert-butyl methyl[3-(methylamino)propyl]carbamate (described in J. Med. Chem. 1990, 33, 97-101) (164 mg, 0.810 mmol) in methylene chloride (4 mL) was added dropwise under ice cooling, and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and the resulting residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:2→0:100, v/v) to give the title compound (300 mg; yield, 100%) as a yellow oily substance.

reactant | 2-Fluoro-4-nitrobenzoic acid | 0.810 mmol, 150 mg | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | triethylamine | 0.972 mmol, 0.135 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.810 mmol, 0.100 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | tert-butyl methyl[3-(methylamino)propyl]carbamate | 0.810 mmol, 164 mg | CN(C(OC(C)(C)C)=O)CCCNC | C10H22N2O2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3-{[(2-fluoro-4-nitrophenyl)carbonyl](methyl)amino}propyl)methylcarbamate | 300 mg, 100% | FC1=C(C=CC(=C1)[N+](=O)[O-])C(=O)N(CCCN(C(OC(C)(C)C)=O)C)C | C17H24FN3O5
